US07419984B2
Following the method described in Example 89 for the synthesis of 2-bromo-4-chloro-1-(2,2,2-trifluoro-ethoxy)-benzene 4-bromo-phenol and trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester gave 1-bromo-4-(2,2,2-trifluoro-ethoxy)-benzene (40% yield). 1H NMR (acetone-d6) δ 4.68 (q, 2H, J=8.5 Hz, CH2), 7.04 (d, 2H, J=9.1 Hz, Ar), 7.49 (d, 2H, J=9.1 Hz, Ar).

reactant | 2-bromo-4-chloro-1-(2,2,2-trifluoro-ethoxy)-benzene 4-bromo-phenol | BrC1=CC=C(C=C1)O.BrC1=C(C=CC(=C1)Cl)OCC(F)(F)F
reactant | trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
product | 1-bromo-4-(2,2,2-trifluoro-ethoxy)-benzene | 40% yield | BrC1=CC=C(C=C1)OCC(F)(F)F | C8H6BrF3O
